US04269832
Preparation of N2,N4,N6 -tris(1,1,3,3-tetramethylbutyl)melamine
A mixture of 3.7 g. (0.01 mole) of 2,4-bis(2,4,4-trimethyl-2-pentylamino)-6-chloro-s-triazine, 2.6 g. (0.02 mole) of 2,4,4-trimethyl-2-pentylamine and 2,85 g. (0.03 mole) of α-pyridone are fused and heated at the boiling point for 21/2 hours during which time the mixture turns a brown color. At the end of this period the mixture is cooled yielding a solid mass which is treated with about 10 ml. of 10% sodium hydroxide. On filtration, 4.52 g. of a beige solid is obtained m.p. 151°-156° C. Recrystallization of the beige solid from 75 ml. of hot ethanol yields 3.09 g. of colorless needles, m.p. 156°-157.5° C.

reactant | 2,4-bis(2,4,4-trimethyl-2-pentylamino)-6-chloro-s-triazine | 0.01 mole | CC(C)(CC(C)(C)C)NC1=NC(=NC(=N1)NC(C)(CC(C)(C)C)C)Cl | C19H36ClN5
reactant | 2,4,4-trimethyl-2-pentylamine | 0.02 mole | CC(C)(CC(C)(C)C)N | C8H19N
reactant | α-pyridone | 0.03 mole | C1=CC(=O)NC=C1 | C5H5NO
reactant | sodium hydroxide | [OH-].[Na+]
product | N2,N4,N6 -tris(1,1,3,3-tetramethylbutyl)melamine | CC(CC(C)(C)C)(C)NC1=NC(=NC(=N1)NC(CC(C)(C)C)(C)C)NC(CC(C)(C)C)(C)C | C27H54N6
